US07087601B2
4-hydroxy-3-methoxybenzoic acid (25 g, 149 mmol) and 2-amino phenol (16.2 g, 149 mmol) were combined in a round bottom flask. Trimethylsilyl polyphosphate (80 mL) was added neat. The mixture was heated at 180° C. for 30 min. The mixture is poured over ice and allowed to stir overnight. The suspension was filtered to afford 4-(1,3-benzoxazol-2-yl)-2-methoxyphenol as a pale green solid. MS (ESI) 242 (M+H)+.

reactant | 4-hydroxy-3-methoxybenzoic acid | 149 mmol, 25 g | OC1=C(C=C(C(=O)O)C=C1)OC | C8H8O4
reactant | 2-amino phenol | 149 mmol, 16.2 g | NC1=C(C=CC=C1)O | C6H7NO
solvent | Trimethylsilyl polyphosphate | 80 mL | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
product | 4-(1,3-benzoxazol-2-yl)-2-methoxyphenol | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)O)OC | C14H11NO3
